US07425631B2
Step B. Preparation of 6-(2-dimethylamino-ethoxy)-3,4-dihydro-2H-naphthalen-1-one Oxime
A solution of 6-(2-dimethylamino-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.53 g, 2.3 mmol), hydroxylamine hydrochloride (Riedel DeHaen, 0.69 g, 10.0 mmol), and Et3N (Aldrich, 1.4 mL, 10.0 mmol) in MeOH (6 mL) was heated to reflux overnight. The reaction mixture was diluted with EtOAc (70 mL) and washed with 10% Na2CO3, brine. The organic solution was dried over Na2SO4, filtered and concentrated in vacuo to afford the product as an off-white solid. MS (ESI): 249 (M+H)+.

reactant | 6-(2-dimethylamino-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 2.3 mmol, 0.53 g | CN(CCOC=1C=C2CCCC(C2=CC1)=O)C | C14H19NO2
reactant | hydroxylamine hydrochloride | 10.0 mmol, 0.69 g | Cl.NO
reactant | Et3N | 10.0 mmol, 1.4 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 6 mL | CO | CH4O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 6-(2-dimethylamino-ethoxy)-3,4-dihydro-2H-naphthalen-1-one Oxime | CN(CCOC=1C=C2CCCC(C2=CC1)=NO)C | C14H20N2O2
